US05719161
4. 8-{2-[(2-Methoxyethoxy)carbonylamino]-6-methylbenzylamino}-2-methylimidazo[1,2-a]pyridine-3-methanol
2.8 g (7.06 mmol) of 8-{2-[(2-methoxyethoxy)carbonylamino]-6-methylbenzylamino}-2-methylimidazo[1,2-a]-pyridine-3-carboxaldehyde are reduced with sodium borohydride analogously to Example 2, methanol is distilled off in vacuo, and the residue is treated with water and ethyl acetate and adjusted to pH 9 using potassium hydrogen phosphate solution. The mixture is extracted several times with ethyl acetate, dried and concentrated in vacuo, and the residue is recrystallized from toluene/diisopropyl ether. 2.28 g (81%) of the title compound of m.p. 138°-140° C. are obtained.

reactant | 8-{2-[(2-methoxyethoxy)carbonylamino]-6-methylbenzylamino}-2-methylimidazo[1,2-a]-pyridine-3-carboxaldehyde | 7.06 mmol, 2.8 g | COCCOC(=O)NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C=O)C(=CC=C1)C | C21H24N4O4
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 8-{2-[(2-Methoxyethoxy)carbonylamino]-6-methylbenzylamino}-2-methylimidazo[1,2-a]pyridine-3-methanol | 2.28 g, 81% | COCCOC(=O)NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CO)C(=CC=C1)C | C21H26N4O4
